US08383621B2
Step 6: 4-[4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]piperazine-2,6-dione
A commercial solution of boron tribromide (1N in DCM, 0.4 mL, 0.4 mmol) was added to a solution of 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]piperazine-2,6-dione (which may be prepared in accordance with the experimental described in Example 4, step 5; 60 mg, 0.15 mmol) in dichloromethane (0.5 mL) placed under argon at −30° C. The reaction mixture was stirred at room temperature overnight and then diluted by addition of dichloromethane (10 mL) and a saturated solution of ammonium chloride (10 mL). After separation, the aqueous layer was extracted with dichloromethane (2×10 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated under vacuum. The residue was purified by chromatography on silica gel, using dichloromethane/methanol (98:2) as eluent. The title product was obtained as a white solid (35 mg, 60%).

reactant | boron tribromide | 0.4 mmol, 1N, 0.4 mL | B(Br)(Br)Br | BBr3
reactant | 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]piperazine-2,6-dione | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(NC(C3)=O)=O)C=C2)F)C=C1F)OC | C20H18F2N2O5
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]piperazine-2,6-dione | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(NC(C3)=O)=O)C=C2)F)C=C1F)O | C19H16F2N2O5
